US05691323
A mixture of ethyl 2-methyl-2-(5-pyrimidinyl)propionate (4.64 g), 1.0N lithium hydroxide (26 mL) and THF (100 mL) was heated to reflux under argon for 26 h. The mixture was allowed to cool, adjusted to pH 7 with acetic acid, and concentrated to dryness to give 4.11 g of lithium 2-methyl-2-(5-pyrimidinyl)propionate as a pale solid.

reactant | ethyl 2-methyl-2-(5-pyrimidinyl)propionate | 4.64 g | CC(C(=O)OCC)(C)C=1C=NC=NC1 | C10H14N2O2
reactant | lithium hydroxide | 1.0N, 26 mL | [OH-].[Li+]
reactant | THF | 100 mL | C1CCOC1 | C4H8O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | lithium 2-methyl-2-(5-pyrimidinyl)propionate | 4.11 g | CC(C(=O)[O-])(C)C=1C=NC=NC1.[Li+] | InChI=1S/C8H10N2O2.Li/c1-8(2,7(11)12)6-3-9-5-10-4-6;/h3-5H,1-2H3,(H,11,12);/q;+1/p-1
